US04436726
Starting from N-(3-hexadecanoyloxyoctadecanoyl)-L-valine (1 g) prepared by the method of Example 28 and L-phenylalanine (777 mg), N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-phenylalanine (900 mg) was obtained as powders according to a similar manner to that of Example 29.

reactant | N-(3-hexadecanoyloxyoctadecanoyl)-L-valine | 1 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCCCCCCCCC | C39H75NO5
reactant | L-phenylalanine | 777 mg | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-phenylalanine | 900 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C48H84N2O6
